2173-11-29 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - GYN consult feels that patient should start on Lupron as soon as
   possible, though effect may not be fully seen until 2 to 3 weeks from
   now. Also may consider progesterone, though hold off while HCT stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Other medications:
   Acetaminophen 3. Docusate Sodium 4. Ferrous Gluconate 5. Heparin 6.
   Leuprolide Acetate 7. Naproxen
   8. OxycoDONE (Immediate Release) 9. Potassium Chloride 10. Senna 11.
   Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt reports continued pleuritic CP on the left side,
   with dyspnea on exertion.  Has not been out of bed yet but is eating.
   Reports using 2 pads Q2H and soaking through the sheets.  No
   lightheadedness or dizziness.
   Flowsheet Data as of  [**2173-11-29**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 89 (80 - 103) bpm
   BP: 131/87(96) {86/58(64) - 142/106(114)} mmHg
   RR: 22 (14 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    544 mL
                                                                    461 mL
   PO:
                                                                    400 mL
                                                                    350 mL
   TF:
   IVF:
                                                                    144 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    300 mL
   Urine:
                                                                    700 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -156 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Gen: NAD
   Neck: no JVD
   Cv: RRR nl s1/s2 no mrg
   Pulm: CTA b/l
   Abd: +BS, soft NTND
   Ext: no edema, NT
   Labs / Radiology
   251 K/uL
   9.0 g/dL
   102 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   9 mg/dL
   105 mEq/L
   136 mEq/L
   28.1 %
   5.8 K/uL
        [image002.jpg]
                            [**2173-11-28**]  06:30 PM
                            [**2173-11-29**]  12:01 AM
                            [**2173-11-29**]  02:56 AM
   WBC
   5.8
   Hct
   30.8
   27.7
   28.1
   Plt
   251
   Cr
   0.7
   Glucose
   102
   Other labs: PT / PTT / INR:13.8/86.6/1.2, Differential-Neuts:47.2 %,
   Lymph:43.3 %, Mono:6.7 %, Eos:2.8 %, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.0 mg/dL
   Imaging: FINDINGS: There are multiple filling defects in the bilateral
   pulmonary
   arteries supplying the right upper lobe, anterior segment (2, 23) and
   right
   lower lobe (2, 31-40). There is a nodular subpleural opacity within the
   periphery of the right lower lobe (2, 40) which may represent a small
   pulmonary infarct. Filling defects within the left upper lobe segmental
   arteries (2, 19), lingula (2, 24), and left lower lobe (2, 36)
   segmental
   arteries are also identified. There is no axillary, hilar, or
   mediastinal
   lymphadenopathy. There is no pericardial effusion. There is a small
   left pleural effusion. There is no evidence of bowing of the
   interventricular
   septum to suggest right heart failure at this time.
   Limited views of the upper abdomen are unremarkable.
   BONE WINDOWS: There are no suspicious lytic or sclerotic lesions
   identified.
   IMPRESSION: Extensive bilateral pulmonary emboli as described above.
   Possible right lower lobe pulmonary infarct.
   Microbiology: none
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
   29 yo female with history of anemia secondary to uterine fibroid
   bleeding, presents with pleuritic chest pain for approximately one
   week.
    #. PEs: Patient noting 3 days of severe pleuritic chest pain. No
   association with hemoptysis. CTA shows extensive bilateral PE without
   evidence of Right Heart Strain. EKG shows TWI in lead III, otherwise
   without signs of right heart strain. Heart rate and blood pressure have
   been stable.
   - Discontinued OCPs
   - Continue heparin drip for systemic anticoagulation and initiate
   warfarin when stability more assured
   - LENIs to help determine if large lower extremity clot burden, which
   may require IVC filter if too much uterine bleeding with full
   anticoagulation
   - TTE to assess for any right heart strain in setting of large
   bilateral pulmonary embolism
   - will have to determine best outpatient anticoagulation strategy and
   when this should start as an inpatient.  Would favor keeping on heparin
   gtt alone as long as possible given ability to reverse rapidly
   #. Uterine bleeding:
   -Patient noting increased bleeding in the 4 to 5 days leading up to
   presentation to the hospital. Denies lightheadedness, syncope.
   - Patient received Lupron [**11-28**].
   - f/u OB/Gyn recsto assist in management of uterine bleeding while on
   full anticoagulation: suggested if hematocrit dropping significantly
   and heavy bleeding
   persists, once therapeutically anticoagulated, can consider a course
   medroxyprogesterone 10mg daily to help stabilize the endometrium
   - Telemetry and Q8H HCT monitoring to assure no brisk bleed in setting
   of full anticoagulation
   - Maintain active type and screen
   - Two large bore IVs
   #. Anemia: Currently her HCT is stable.
   - Ferrous gluconate 325 mg [**Hospital1 **]
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2173-11-28**] 04:34 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: start PO H2B [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments: With patient and patient's mother, [**Name (NI) 9860**]
   [**Name (NI) 9446**], Phone: [**Telephone/Fax (1) 9861**]
   Code status: Full code
   Disposition: call out to gyn

2173-12-01 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Hct 27.1 -> 27.8 -> 28.3
   -per gyn, cont to transfuse to Hct > 25.  UAE is distant 2nd line tx.
   -Fe 82, ferritin 36
   -IR will see patient if/when she decompensates
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2173-11-30**] 08:00 AM
   Other medications:
   Acetaminophen 3. Docusate Sodium 4. Ferrous Gluconate 5. Heparin 6.
   Magnesium Sulfate 7. Milk of Magnesia
   8. Naproxen 9. OxycoDONE (Immediate Release) 10. Potassium Chloride 11.
   Ranitidine 12. Senna 13. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: CP improving, improves with Naproxen, dyspnea only
   with activity.  Has been Oob to commode only.  Using 1 large pad Q2H.
   Flowsheet Data as of  [**2173-12-1**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 83 (83 - 103) bpm
   BP: 121/80(90) {101/51(64) - 143/88(100)} mmHg
   RR: 17 (0 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,064 mL
                                                                    124 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                    444 mL
                                                                    124 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    650 mL
                                                                    200 mL
   Urine:
                                                                    650 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    414 mL
                                                                    -76 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   Gen: NAD
   CV: Rrr nl s1s2 no mrg
   Pulm: cta b/l
   Abd: unchanged distention and firmness, +BS, NT
   Ext: no edema, warm
   Labs / Radiology
   253 K/uL
   8.4 g/dL
   94 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.7 mEq/L
   8 mg/dL
   107 mEq/L
   136 mEq/L
   26.5 %
   5.5 K/uL
        [image002.jpg]
                            [**2173-11-29**]  12:01 AM
                            [**2173-11-29**]  02:56 AM
                            [**2173-11-29**]  01:06 PM
                            [**2173-11-29**]  03:17 PM
                            [**2173-11-29**]  08:53 PM
                            [**2173-11-30**]  04:56 AM
                            [**2173-11-30**]  10:42 AM
                            [**2173-11-30**]  04:50 PM
                            [**2173-11-30**]  10:45 PM
                            [**2173-12-1**]  02:59 AM
   WBC
   5.8
   5.7
   5.3
   5.5
   Hct
   27.7
   28.1
   28.1
   28.4
   25.6
   27.1
   27.8
   28.3
   27.4
   26.5
   Plt
   [**Telephone/Fax (3) 9906**]53
   Cr
   0.7
   0.7
   0.6
   Glucose
   102
   104
   94
   Other labs: PT / PTT / INR:13.8/102.6/1.2, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:3.7 mg/dL
   Imaging: none
   Microbiology: none
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PULMONARY EMBOLISM (PE), ACUTE
   29 yo female with history of anemia secondary to uterine fibroid
   bleeding, presents with pleuritic chest pain for approximately one
   week.
    #. PEs: Patient noting 3 days of severe pleuritic chest pain. No
   association with hemoptysis. CTA shows extensive bilateral PE without
   evidence of Right Heart Strain. EKG shows TWI in lead III, otherwise
   without signs of right heart strain. Heart rate and blood pressure have
   been stable.  LENIs negative and TTE with no signs of right heart
   strain.
   - Discontinued OCPs
   - Continue heparin drip for systemic anticoagulation and initiate
   warfarin when stability more assured
   - will have to determine best outpatient anticoagulation strategy and
   when this should start as an inpatient.  Would favor keeping on heparin
   gtt alone as long as possible given ability to reverse rapidly and
   possibility of procedures this admission
   - advised patient that we would like to switch from naproxen because of
   bleeding risk.
   #. Uterine bleeding: Patient noting increased bleeding in the 4 to 5
   days leading up to presentation to the hospital. Denies
   lightheadedness, syncope.
   - Patient received Lupron [**11-28**].
   -check Hct at 10am with PTT
   - f/u OB/Gyn recs to assist in management of uterine bleeding while on
   full anticoagulation: suggested if hematocrit dropping significantly
   and heavy bleeding persists, once therapeutically anticoagulated, can
   consider a course medroxyprogesterone 10mg daily to help stabilize the
   endometrium
   - Per Ob/Gyn would like to avoid procedure such as myomectomy or UAE;
   will not pursue unless patient transfusion resistant and unable to
   maintain Hct > 25.
   - Telemetry and Q8H HCT monitoring to assure no brisk bleed in setting
   of full anticoagulation
   - Maintain active type and screen
   - Two large bore Ivs
   #. Iron Deficiency Anemia: Currently her HCT is stable.
   - Ferrous gluconate 325 mg [**Hospital1 **]
    ICU Care
   Nutrition: Regular diet
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: H2 blocker
   Comments: Naproxen, tylenol and oxycodone for pain control, bowel
   regimen with senna and colace
   Communication:  Comments: With patient and patient's mother, [**Name (NI) 9860**]
   [**Name (NI) 9446**], Phone: [**Telephone/Fax (1) 9861**]
   Code status: Full code
   Disposition: ?c/o to gyn today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2173-11-28**] 04:34 PM
   18 Gauge - [**2173-11-29**] 04:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code